US03971819
A solution of ethyl 3-benzylamino-4-(4-benzyloxyphenoxy)-5-sulphamyl-benzoate (2 g) in 1N sodium hydroxide (45 ml) was left standing at room temperature for 40 hours. Then the reaction mixture was adjusted to a pH of 2.5 by addition of 4N hydrochloric acid. The precipitated 3-benzylamino-4-(4-benzyloxyphenoxy)-5-sulphamyl-benzoic acid was isolated by filtration and recrystallized from aqueous ethanol. After drying, the compound was obtained with a melting point of 249°-251°C.

reactant | ethyl 3-benzylamino-4-(4-benzyloxyphenoxy)-5-sulphamyl-benzoate | 2 g | C(C1=CC=CC=C1)NC=1C=C(C(=O)OCC)C=C(C1OC1=CC=C(C=C1)OCC1=CC=CC=C1)S(N)(=O)=O | C29H28N2O6S
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | sodium hydroxide | 1N, 45 ml | [OH-].[Na+]
product | 3-benzylamino-4-(4-benzyloxyphenoxy)-5-sulphamyl-benzoic acid | C(C1=CC=CC=C1)NC=1C=C(C(=O)O)C=C(C1OC1=CC=C(C=C1)OCC1=CC=CC=C1)S(N)(=O)=O | C27H24N2O6S
